US07482338B2
To a stirred solution of 1,4-diazabicyclo[3.2.2]nonane dihydrochloride (120 mg, 0.60 mmol), picolinic acid (85 mg, 0.69 mmol), and diisopropylethylamine (0.45 mL, 2.6 mmol) in dry DMF (2 mL) at ambient temperature was added in succession 1-hydroxybenzotriazole hydrate (85 mg, 0.63 mmol) and TBTU (200 mg, 0.62 mmol). The resulting precipitous mixture was stirred for 12 hours, partitioned between water and chloroform, and extracted with chloroform (3×). The organic layers were combined, washed with water, brine, and dried. The resulting product obtained from concentration of the organic phases was subjected to chromatography on silica gel eluting with a chloroform (ammoniated) to 15% MeOH/chloroform gradient to give (1,4-diazabicyclo[3.2.2]non-4-yl)(pyridin-2-yl)methanone. MS (ES+) 232 (MH+).

reactant | 1,4-diazabicyclo[3.2.2]nonane dihydrochloride | 0.60 mmol, 120 mg | Cl.Cl.N12CCNC(CC1)CC2
reactant | picolinic acid | 0.69 mmol, 85 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | diisopropylethylamine | 2.6 mmol, 0.45 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-hydroxybenzotriazole hydrate | 0.63 mmol, 85 mg | O.ON1N=NC2=C1C=CC=C2
reactant | TBTU | 0.62 mmol, 200 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | MeOH chloroform | CO.C(Cl)(Cl)Cl
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (1,4-diazabicyclo[3.2.2]non-4-yl)(pyridin-2-yl)methanone | N12CCN(C(CC1)CC2)C(=O)C2=NC=CC=C2 | C13H17N3O
